US05254595
A mixture of 1-[1-(p-toluenesulfonyl)indol-4-yloxy]-2,3-epoxypropane (20 g), prepared as described in EP-A-228356, and 2-amino-7-hydroxytetralin (10.5 g) in isopropanol (300 ml) is heated to the reflux temperature for 4 hours. The solvent is then evaporated off under reduced pressure, the residue is dissolved in ethyl acetate and the organic solution is washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue is taken up first in ethanol (200 ml) and then in a solution of sodium hydroxide (15 g) in water (90 ml). The reaction mixture is heated to the reflux temperature for 4 hours, made slightly acidic by the addition of 1N HCl and then basified by the addition of concentrated ammonium hydroxide. The reaction mixture is concentrated under reduced pressure, the residue is taken up in absolute ethanol and concentrated to dryness and this last procedure is repeated. The obtained residue is taken up in ethanol, filtered and washed on filter with ethanol. The filtrate and the washing ethanol are combined and the solution is basified by the addition of concentrated ammonium hydroxide. The residue which is obtained by evaporating off the solvent is purified by silica gel column chromatography eluting first with ethyl acetate and then with a mixture ethyl acetate/reethanol 9/1 v/v. The product-containing fractions are combined and evaporated to dryness. A mixture of acetic acid and isopropanol is used to take up the product. The precipitate which forms is then recovered by filtration and crystallized from 95% ethanol (60 ml) affording 2.6 g of N-(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-indol-4-yloxypropanamine acetate; m.p. 167°-170° C.

reactant | 1-[1-(p-toluenesulfonyl)indol-4-yloxy]-2,3-epoxypropane | 20 g | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCC1CO1)C | C18H17NO4S
reactant | 2-amino-7-hydroxytetralin | 10.5 g | NC1CC2=CC(=CC=C2CC1)O | C10H13NO
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | N-(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-indol-4-yloxypropanamine acetate | 2.6 g | C(C)(=O)O.OC1=CC=C2CCC(CC2=C1)NCC(COC1=C2C=CNC2=CC=C1)O | InChI=1S/C21H24N2O3.C2H4O2/c24-17-7-5-14-4-6-16(10-15(14)11-17)23-12-18(25)13-26-21-3-1-2-20-19(21)8-9-22-20;1-2(3)4/h1-3,5,7-9,11,16,18,22-25H,4,6,10,12-13H2;1H3,(H,3,4)
